US05679696
A stirred solution of N-(3-hydroxy-4-methoxyphenylsulfonyl)-2-chloroaniline, containing some N,N-bis(3-hydroxy-4-methoxyphenyl-sulfonyl)-2-chloroaniline (0.7 g; that is prepared as described in Reference Example 72) in dimethylformamide (20 mL) is treated portionwise with an oil dispersion of sodium hydride (60%; 0.11 g, 2.7 mmol) and the mixture is stirred at 60° C. for 1 hour. It is then treated dropwise with cyclopentyl bromide (0.32 mL) and the solution is stirred at 60° C. for a further period of 4 hours. After cooling, the mixture is treated with water (20 mL) and extracted with diethyl ether (2×75 mL). The organic extracts are combined, dried and evaporated, to give an oil which is subjected to flash chromatography on silica gel, eluting with diethyl ether, to give N-(2-chlorophenyl)-3-cyclopentyloxy-4-methoxybenzenesulfonamide (150 mg), m.p. 113°-115° C. [NMR(CDCl3): 7.68(dd, 1H,J=8Hz, J=2Hz),7.37(dd, 1H,J=8 Hz,J=2 Hz), 7.26(d, 1 H, J=2 Hz), 7.24(dt, 1H ,J=8Hz,J=2 Hz),7.13(d, 1H,J=2 Hz),7.04(dt, 1 H, J=8 Hz,J=2 Hz), 6.92(bs, 1H),6.82(d, 1H,J=8 Hz),4.65(m, 1H), 3.86(s,3H), 1.92-1.55 (m,8H)].

reactant | N-(3-hydroxy-4-methoxyphenylsulfonyl)-2-chloroaniline | OC=1C=C(C=CC1OC)S(=O)(=O)NC1=C(C=CC=C1)Cl | C13H12ClNO4S
reactant | N,N-bis(3-hydroxy-4-methoxyphenyl-sulfonyl)-2-chloroaniline | OC=1C=C(C=CC1OC)S(=O)(=O)N(C1=C(C=CC=C1)Cl)S(=O)(=O)C1=CC(=C(C=C1)OC)O | C20H18ClNO8S2
reactant | sodium hydride | 2.7 mmol, 0.11 g | [H-].[Na+]
reactant | cyclopentyl bromide | 0.32 mL | C1(CCCC1)Br | C5H9Br
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | N-(2-chlorophenyl)-3-cyclopentyloxy-4-methoxybenzenesulfonamide | 150 mg | ClC1=C(C=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C18H20ClNO4S
